US04638067
A mixture of 1.25 g (5.72 mmol) of N,N-dimethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine, 100 ml of methyl alcohol, 0.2 g of 20% palladium on carbon and hydrogen were shaken at a pressure of 55.1 psi. After 16.8 hours the catalyst was filtered and the filtrate evaporated under reduced pressure. The residue was bulb to bulb distilled yielding 0.71 g (97%) N,N-dimethyl-3-pyrrolidinemethanamine as a clear yellow oil.

reactant | N,N-dimethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine | 5.72 mmol, 1.25 g | CN(CC1CN(CC1)CC1=CC=CC=C1)C | C14H22N2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | methyl alcohol | 100 ml | CO | CH4O
product | N,N-dimethyl-3-pyrrolidinemethanamine | 0.71 g, 97% | CN(CC1CNCC1)C | C7H16N2
